US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(4-methylbenzyl)thio]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 4-methylbenzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 75%) was obtained as colorless crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
reactant | 4-methylbenzyl bromide | CC1=CC=C(CBr)C=C1 | C8H9Br
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(4-methylbenzyl)thio]-1,3,4-oxadiazole | yield 75% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)SCC2=CC=C(C=C2)C | C18H16N2O2S
